US05886014
5-[4-(1-Methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Compound No. 1-11)
A mixture of 1.0 g of N-methyl-1,2-phenylenediamine, 3.8 g of 5-[4-(ethoxycarbonylmethoxy)benzyl]thiazolidine-2,4-dione (prepared as described in Preparation 4), 20 ml of concentrated aqueous hydrochloric acid, 10 ml of 1,4-dioxane and 10 ml of water was heated under reflux for 5 hours. At the end of this time, the insoluble materials which had precipitated from the reaction mixture were collected by filtration and the precipitate thus obtained was dissolved in tetrahydrofuran. Water was then added to the solution. The resulting aqueous mixture was neutralized by adding sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel using ethyl acetate and then ethanol as the eluent. The product was then recrystallized twice from a mixture of tetrahydrofuran and ethyl acetate, to give 1.3 g of the title compound, melting at 230°-231° C.

reactant | N-methyl-1,2-phenylenediamine | 1.0 g | CNC1=C(C=CC=C1)N | C7H10N2
reactant | 5-[4-(ethoxycarbonylmethoxy)benzyl]thiazolidine-2,4-dione | 3.8 g | C(C)OC(=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C14H15NO5S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | water | 10 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(1-Methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 1.3 g | CN1C(=NC2=C1C=CC=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C19H17N3O3S
